US08497278B2
(R)—N-((6-chloro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-4-(1-methylpyrrolidin-3-yloxy)pyrimidin-2-amine (183)
To a solution of (R)-1-methylpyrrolidin-3-ol (66 mg, 0.65 mmol) in THF (3 ml) was added NaH (25 mg, 65% in mineral oil). The mixture was stirred for 30 min and 4-chloro-N-((6-chloro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-2-amine (50 mg, 0.13 mmol) was added. The mixture was heated from 65 to 95° C. until the reaction was completed. The mixture was diluted with ethyl acetate and the resulting mixture was washed with saturated NaHCO3 and brine, dried over Na2SO4 and concentrated by evaporation. The crude product was purified by silica gel chromatography (methanol/methylene chloride gradient) to obtain the desired product. 1H-NMR (CDCl3, 400 MHz, δ) 8.23 (s, 1H), 7.69 (m, 2H), 7.52 (d, J=9.5 Hz, 1H), 7.12 (m, 3H), 5.97 (s, 1H), 5.36 (s, 1H), 4.96 (d, J=4.7 Hz, 2H), 2.80 (m, 3H), 2.68 (m, 1H), 2.34 (s, 3H), 2.25 (m, 2H), 1.96 (m, 1H) ppm; m/e 453 (M+H)+.

reactant | (R)-1-methylpyrrolidin-3-ol | 0.65 mmol, 66 mg | CN1C[C@@H](CC1)O | C5H11NO
reactant | NaH | 25 mg | [H-].[Na+]
reactant | 4-chloro-N-((6-chloro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-2-amine | 0.13 mmol, 50 mg | ClC1=NC(=NC=C1)NCC1=C(N=C2N1C=C(C=C2)Cl)C2=CC=C(C=C2)F | C18H12Cl2FN5
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)—N-((6-chloro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-4-(1-methylpyrrolidin-3-yloxy)pyrimidin-2-amine | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)CNC2=NC=CC(=N2)O[C@H]2CN(CC2)C | C23H22ClFN6O
